US07691877B2
N2,N4-Dibenzyl-6-trifluoromethyl-pyridine-2,3,4-triamine
N2,N4-Dibenzyl-3-nitro-6-trifluoromethyl-pyridine-2,4-diamine (15.9 g, 35.6 mmol) was dissolved in a mixture of THF (100 ml) and MeOH (200 ml). Raney Nickel (3.18 g, 20 wt %) was added and the mixture was stirred at room temperature under 80 psi H2 for 1 hour. The mixture was filtered through celite to remove the catalyst and the filtrate was concentrated in vacuo to give an oil. Trituration in MeOH with a small amount of water gave a precipitate which was collected by filtration, washed with cold MeOH and dried in vacuo to give the title compound (9.02 g) as a white solid.

reactant | N2,N4-Dibenzyl-3-nitro-6-trifluoromethyl-pyridine-2,4-diamine | 35.6 mmol, 15.9 g | C(C1=CC=CC=C1)NC1=NC(=CC(=C1[N+](=O)[O-])NCC1=CC=CC=C1)C(F)(F)F | C20H17F3N4O2
reactant | water | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | MeOH | 200 ml | CO | CH4O
catalyst | Raney Nickel | 3.18 g | [Ni] | Ni
product | N2,N4-Dibenzyl-6-trifluoromethyl-pyridine-2,3,4-triamine | 9.02 g | C(C1=CC=CC=C1)NC1=NC(=CC(=C1N)NCC1=CC=CC=C1)C(F)(F)F | C20H19F3N4
